US07358250B2
Step A: N-Methyl-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (1.0 g, 4.03 mmol), EDC (0.81 g, 4.23 mmol), and DMAP (catalytic amount) in 3 mL of DMF was stirred at room temperature for 1 hr, and then 2 mL of a 2M solution of N,N-dimethylamine in THF (4 mmol) was added into the reaction mixture. The resulting mixture was stirred at room temperature for 16 h. Ethyl acetate (100 mL) was added and the mixture was washed with saturated sodium bicarbonate and brine. The organic layer was dried over Na2SO4, filtered and the filtrate was concentrated. The solvent was removed to give the title compound which was used without further purification for the next step. Mass Spectrum (ESI) m/e=262 (M+1).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 4.03 mmol, 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
reactant | EDC | 4.23 mmol, 0.81 g
reactant | N,N-dimethylamine | CNC | C2H7N
reactant | THF | 4 mmol | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-Methyl-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | CNC(C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H20BNO3
